US08729263B2
To a 100 mL round bottom flask containing 3-bromo-4-methoxybenzoic acid (500 mg, 2.16 mmol) and DCM (5 mL) was added oxalyl chloride (0.23 mL, 2.60 mmol) and DMF (0.1 mL, 0.13 mmol). The reaction mixture was stirred at RT for one hour and concentrated in vacuo. The resulting colorless oil was taken up in DCM (2.5 mL) and added to a mixture of (1-methyl-1H-pyrazol-4-yl)methanamine (241 mg, 2.16 mmol), TEA (0.60 mL, 4.33 mmol) and DCM (2.5 mL) at 0° C. The reaction mixture was stirred at RT for 0.5 hours then concentrated in vacuo. The crude material was purified by silica gel chromatography (0-10% MeOH in DCM) to afford 3-bromo-4-methoxy-N-((1-methyl-1H-pyrazol-4-yl)methyl)benzamide (702 mg) MS [M+H+]=325.9.

reactant | 3-bromo-4-methoxybenzoic acid | 2.16 mmol, 500 mg | BrC=1C=C(C(=O)O)C=CC1OC | C8H7BrO3
reactant | oxalyl chloride | 2.60 mmol, 0.23 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (1-methyl-1H-pyrazol-4-yl)methanamine | 2.16 mmol, 241 mg | CN1N=CC(=C1)CN | C5H9N3
catalyst | DMF | 0.13 mmol, 0.1 mL | CN(C)C=O | C3H7NO
solvent | DCM | 2.5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-bromo-4-methoxy-N-((1-methyl-1H-pyrazol-4-yl)methyl)benzamide | 702 mg | BrC=1C=C(C(=O)NCC=2C=NN(C2)C)C=CC1OC | C13H14BrN3O2
